US07906645B2
N-(3,4-Dichlorophenyl)-4-{[(2R)-4-ethyl-1-(methylsulfonyl)piperazin-2-yl]carbonyl}piperazine-1-carboxamide
In this way, using methane sulphonylchloride (13 μl), N-(3,4-Dichlorophenyl)-4-{[(2R)-4-ethylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide (70 mg) gave the title compound (53 mg, 64%).

reactant | methane sulphonylchloride | 13 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(3,4-Dichlorophenyl)-4-{[(2R)-4-ethylpiperazin-2-yl]carbonyl}piperazine-1-carboxamide | 70 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)[C@@H]1NCCN(C1)CC | C18H25Cl2N5O2
product | N-(3,4-Dichlorophenyl)-4-{[(2R)-4-ethyl-1-(methylsulfonyl)piperazin-2-yl]carbonyl}piperazine-1-carboxamide | 53 mg, 64% | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C(=O)[C@@H]1N(CCN(C1)CC)S(=O)(=O)C | C19H27Cl2N5O4S
